US06867192B1
Tert-butyl (2S)-2-[((2S)-2-{[(benzyloxy)carbonyl]amino}-4-methylpentanoyl)amino]-3-(4-hydroxyphenyl)propanoate
To a solution of N-carbobenzyloxy-L-leucine (8.6 g) in acetonitrile (150 ml), under a nitrogen atmosphere, was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.83 g) and 1-hydroxybenzotriazole (4.81 g). After stirring for 30 mins at 20° C. L-tyrosine tert-butyl ester (7.7 g) was added and stirring was continued for 18 h. The mixture was concentrated in vacuo to ca. 10 ml and the residue was partitioned between 1M hydrochloric acid (300 ml) and ethyl acetate (150 ml). The layers were separated and the aqueous phase was further extracted with ethyl acetate (150 ml). The combined organic extracts were washed with saturated aqueous sodium hydrogen carbonate (150 ml), water (2×150 ml) and brine (100 ml), dried over sodium sulphate and evaporated in vacuo. The residue was co-evaporated with chloroform to give the title compound as a white foam (15 g, 96%). LCMS: Rt 3.56 min; m/z 485 (MH+).

reactant | N-carbobenzyloxy-L-leucine | 8.6 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.83 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 4.81 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | L-tyrosine tert-butyl ester | 7.7 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C13H19NO3
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | Tert-butyl (2S)-2-[((2S)-2-{[(benzyloxy)carbonyl]amino}-4-methylpentanoyl)amino]-3-(4-hydroxyphenyl)propanoate | 15 g, 96% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)CC(C)C | C27H36N2O6
